US06200254B1
Preparation ofthe di-Grignard reagent from 1,5-dibromo-3-methylpentane (46 g, 189 mmole) and treatment with acrolein (23.3 g, 415 mmole), as described in Example 6 (Step 2/Method A), gave 6-methylundeca-1,10-diene-3,9-diol (29.2 g, 78% yield). C12H22O2 (198.31 g/mole). bp: 115° C., 0.4 mm Hg. 1HNMR (500 MHz, CDCl3): 0.86 (d, 3H), 1.08-1.58 (m, 9H), 1.95 (bs, 2H), 4.02 (m, 2H), 5.06 (d, 2H), 5.18 (m, 2H), 5.79-5.87 (m, 2H) ppm. 13CNMR (125 MHz, CDCl3): 19.66, 32.38, 32.66, 32.77, 34.47, 73.50, 73.67, 114.62, 114.70, 141.32, 141.38. IR (νmax(cm−1)): 3360(bs), 3080(w), 2925(s), 2860(s), 1645(w), 1430(w), 995(s), 920(s). MS (m/z): 165(M-33), 151, 147, 109, 95, 81, 67, 57, 41.

reactant | 1,5-dibromo-3-methylpentane | 189 mmole, 46 g | BrCCC(CCBr)C | C6H12Br2
reactant | acrolein | 415 mmole, 23.3 g | C(=O)C=C | C3H4O
product | 6-methylundeca-1,10-diene-3,9-diol | 29.2 g, 78% yield | CC(CCC(C=C)O)CCC(C=C)O | C12H22O2
